US07700633B2
C. Benzoic acid 6-(5-hydroxy-4,4-dimethylpentyl)-3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl ester
The title compound is prepared analogously to Example 8, step A, from benzoic acid 6-bromo-3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl ester and 2,2-dimethylpent-4-en-1-ol: Retention time=1.30 min (Method A); (M−H)−=495.

reactant | benzoic acid 6-bromo-3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl ester | BrC=1C=C2C=C(C(=CC2=CC1)OC(C1=CC=CC=C1)=O)N1S(NC(C1)=O)(=O)=O | C19H13BrN2O5S
reactant | 2,2-dimethylpent-4-en-1-ol | CC(CO)(CC=C)C | C7H14O
product | Benzoic acid 6-(5-hydroxy-4,4-dimethylpentyl)-3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl ester | OCC(CCCC=1C=C2C=C(C(=CC2=CC1)OC(C1=CC=CC=C1)=O)N1S(NC(C1)=O)(=O)=O)(C)C | C26H28N2O6S
